US07250427B2
2-(4-{2-[1-(4-Methyl-benzyl)-piperidin-2-yl]-ethoxy}-phenyl)-1H-benzoimidazole-5-carboxylic acid amide
To a solution of 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide (0.10 g, 0.27 mmol) in DMF (1 mL) was added p-tolualdehyde (70 μL, 0.59 mmol), activated 4 Å molecular sieves, and NaB(OAc)3H (0.175 g, 0.82 mmol). The solution was stirred for 16 h and additional portions of aldehyde (1 equiv.) and NaB(OAc)3H (3 equiv.) were added. When HPLC monitoring indicated reaction completion, the solution was quenched with 1 N NaOH and purified by reverse phase HPLC (C18; H2O/CH3CN/0.01% TFA), providing 60 mg (48%) of product. HPLC (Method C): Rt=4.60. MS (ESI+): mass calcd. for C29H32N4O2, 468.25; m/z found, 469.4 [M+H]+. 1H NMR (500 MHz, CD3OD): 8.18 (s, 1H), 8.04 (d, J=8.4 Hz, 2H), 7.94 (d, J=8.6 Hz, 1H), 7.70 (d, J=8.6 Hz, 1H), 7.34-7.32 (m, 2H), 7.23-7.20 (m, 2H), 7.15-7.13 (m, 2H), 4.33-4.10 (m, 3H), 3.45-3.39 (m, 1H), 3.15-3.07 (m, 1H), 2.90-2.85 (m, 1H), 2.72-2.67 (m, 1H), 2.42-2.37 (m, 1H), 2.20-2.10 (m, 1H), 1.93 (br s, 1H), 1.88-1.73 (m, 2H), 1.73-1.45(m, 3H).

reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | 0.27 mmol, 0.10 g | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
reactant | p-tolualdehyde | 0.59 mmol, 70 μL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | NaB(OAc)3H | 0.82 mmol, 0.175 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaB(OAc)3H | 3 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-{2-[1-(4-Methyl-benzyl)-piperidin-2-yl]-ethoxy}-phenyl)-1H-benzoimidazole-5-carboxylic acid amide | 60 mg, 48% | CC1=CC=C(CN2C(CCCC2)CCOC2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)C(=O)N)C=C1 | C29H32N4O2
